US06849761B2
6-(Carboxymethoxy)-5-({[4-(trifluoromethoxy)benzyl]amino}methyl)-2-naphthoic acid
The title compound was prepared as a white solid (0.050 g, 58% for two steps) from 6-methoxycarbonylmethoxy-5-formyl-2-naphthoic acid methyl ester using 4-trifluoromethoxy-benzyl amine and a procedure similar to steps 3-4 of Example 1, mp >266° C. (decomp.); 1H NMR (DMSO-d6) δ4.31 (s, 2H), 4.58 (s, 2H), 4.77 (s, 2H), 7.42 (d, J=8.4 Hz, 2H), 7.62 (d, J=9.3 Hz,1 H), 7.68 (d, J=8.7 Hz, 2H), 8.00 (dd, J=1.5, 8.9 Hz, 1H), 8.17 (d, J=9.0 Hz, 1H), 8.21 (d, J=9.3 Hz, 1H), 8.58 (d, J=1.2 Hz, 1H), 10.05-10.54 (bs, 1H), 12.74-13.46 (bs, 1H); IR (neat) 2450-3200, 1695, 1630, 1600, 1575, 1510, 1485, 1440, 1310, 1265, 1215, 1170, and 1110 cm−1; mass spectrum [(+) ESI], m/z 450 (M+H)+ and [(−) ESI], m/z 448 (M−H)−; Anal. Calcd. for C22H18F3NO6.1.0H2O: C, 56.54; H, 4.31; N, 3.00, Found: C, 56.16; H, 4.26; N, 2.86.

reactant | 6-methoxycarbonylmethoxy-5-formyl-2-naphthoic acid methyl ester | COC(=O)C1=CC2=CC=C(C(=C2C=C1)C=O)OCC(=O)OC | C16H14O6
reactant | 4-trifluoromethoxy-benzyl amine | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
product | 6-(Carboxymethoxy)-5-({[4-(trifluoromethoxy)benzyl]amino}methyl)-2-naphthoic acid | C(=O)(O)COC=1C(=C2C=CC(=CC2=CC1)C(=O)O)CNCC1=CC=C(C=C1)OC(F)(F)F | C22H18F3NO6
